US08314112B2
N-(5-Bromo-pyridin-3-yl)-3-dimethylamino-propionamide
To a solution of 3-amino-5-bromopyridine (Sigma-Aldrich, St. Louis, USA) (1 eq, 11.2 mmol, 2.00 g) and 3-dimethylaminopropionic acid hydrochloride (ABCR GmbH & Co. KG, Karlsruhe, Germany) (1 eq, 11.2 mmol, 1.74 g) in DCM (50 ml), tributylamine (3.6 eq, 40.4 mmol, 9.8 ml) and 2-chloro-1-methylpyridinium iodide (1.2 eq, 13.5 mmol, 3.54 g) are added. The resulting mixture is heated at 50° C. for 4 h, then the solvents are removed in vacuo, aqueous NaOH solution (1 M) is added, and the mixture is extracted with DCM. The organic layer is dried with MgSO4, filtered, and the solvent is removed in vacuo. Purification by column chromatography (DCM/MeOH) yields the title compound; [M+H]+=273.

reactant | 3-amino-5-bromopyridine | 11.2 mmol, 2.00 g, 1 eq | NC=1C=NC=C(C1)Br | C5H5BrN2
reactant | 3-dimethylaminopropionic acid hydrochloride | 11.2 mmol, 1.74 g, 1 eq | Cl.CN(CCC(=O)O)C
reactant | tributylamine | 40.4 mmol, 9.8 ml, 3.6 eq | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 2-chloro-1-methylpyridinium iodide | 13.5 mmol, 3.54 g, 1.2 eq | [I-].ClC1=[N+](C=CC=C1)C
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(5-Bromo-pyridin-3-yl)-3-dimethylamino-propionamide | BrC=1C=C(C=NC1)NC(CCN(C)C)=O | C10H14BrN3O
